US07728025B2
(Step 2) Production of benzyl (2R,4R)-4-(tert-butyl-diphenyl-silanyloxy)-2-(methoxy-methyl-carbamoyl)-pyrrolidine-1-carboxylate
1.50 g of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride and 761 mg of O,N-dimethylhydroxylamine hydrochloride were added in order to a pyridine (30 ml) solution of 2.62 g of (2R,4R)-4-(tert-butyl-diphenyl-silanyloxy)-pyrrolidine-1,2-dicarboxylic acid 1-benzyl ester obtained in (step 1), and the reaction liquid was stirred overnight at room temperature. The solvent of the reaction liquid was evaporated away under reduced pressure, and the resulting residue was purified through silica gel column chromatography (developing solvent: hexane/ethyl acetate=1/1) to obtain the entitled compound.

reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.50 g | Cl.CN(CCCN=C=NCC)C
reactant | O,N-dimethylhydroxylamine hydrochloride | 761 mg | Cl.CONC
reactant | (2R,4R)-4-(tert-butyl-diphenyl-silanyloxy)-pyrrolidine-1,2-dicarboxylic acid 1-benzyl ester | 2.62 g | C(C1=CC=CC=C1)OC(=O)N1[C@H](C[C@H](C1)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)C(=O)O | C29H33NO5Si
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | benzyl (2R,4R)-4-(tert-butyl-diphenyl-silanyloxy)-2-(methoxy-methyl-carbamoyl)-pyrrolidine-1-carboxylate | C(C)(C)(C)[Si](O[C@@H]1C[C@@H](N(C1)C(=O)OCC1=CC=CC=C1)C(N(C)OC)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C31H38N2O5Si
